US07897766B2
N-[(4r)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-3 4-dichlorobenzamide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 3,4-dichlorobenzoic acid (Aldrich) according to methods A and C; yield 39 mg, 0.10 mmol (49%): 1H NMR (300 MHz, methanol-d4) δ 2.06-2.27 (m, 6H), 2.46 (s, 2H), 3.48 (d, J=12 Hz, 2H), 3.55 (s, 2H), 3.81 (d, J=13 Hz, 2H), 4.25 (s, 1H), 7.65 (d, J=8 Hz, 1H), 7.80 (dd, 1H), 8.07 (d, J=2 Hz, 1H); MS (DCI/NH3) m/z 325 (M+H)+; Anal. C16H18Cl2N2O.HCl. 0.4HCl.0.15C4H8O2: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 3,4-dichlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1Cl | C7H4Cl2O2
reactant | NH3 | N | H3N
product | N-[(4r)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-3 4-dichlorobenzamide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(C2=CC(=C(C=C2)Cl)Cl)=O | InChI=1S/C16H18Cl2N2O.ClH/c17-13-2-1-10(5-14(13)18)16(21)19-15-11-3-9-4-12(15)8-20(6-9)7-11;/h1-2,5,9,11-12,15H,3-4,6-8H2,(H,19,21);1H/t9?,11?,12?,15-;
